US04455422
1.8 Grams of 6-[1-oxo-3-(4-phenyl-1-piperazinyl)-propyl]-3,4-dihydrocarbostyril and 0.24 g of of sodium hydride (50% in mineral oil) were mixed in 50 ml of dimethylformamide and stirred at a room temperature for 3 hours. Then 0.9 g of p-toluenesulfonic acid was added and stirred at a room temperature for 3 hours. The reaction mixture was poured into 150 ml of a saturated sodium chloride solution and was extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation under a reduced pressure. The residue thus obtained was injected into preparative thin-layer chromatography to purify and separate the desired compound. The compound obtained was dissolved in acetone and converted into the oxalate by a method similar to that described in Example 27 and recrystallized from ethanol-water to obtain 1.5 g of 1-methyl-6-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril.monooxalate in colorless flake-like crystals.

reactant | 6-[1-oxo-3-(4-phenyl-1-piperazinyl)-propyl]-3,4-dihydrocarbostyril | O=C(CCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C22H25N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | p-toluenesulfonic acid | 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-methyl-6-[1-oxo-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril | 1.5 g | CN1C(=O)CCC2=CC(=CC=C12)C(CCN1CCN(CC1)C1=CC=CC=C1)=O | C23H27N3O2
